US05420126
In 3 ml of methylene chloride was dissolved 0.5 g of ethyl 4-(3,4-dihydro-2,2-dimethyl-6-nitro-2H-1,4-benzoxazin-4-yl)-4-oxo-2-butenoate followed by addition of 0.116 g of methylamine in methanol. The mixture was stirred at room temperature for 4 days, at the end of which time the solvent was distilled off under reduced pressure. The residue was purified by silica gel column chromatography and the resulting crude crystals were washed with ethanol-hexane to give 0.2 g of ethyl 4-(3,4-dihydro-2,2-dimethyl-6-nitro-2H-1,4-benzoxazin-4-yl)-3-methylamino-4-oxobutanoate.

reactant | ethyl 4-(3,4-dihydro-2,2-dimethyl-6-nitro-2H-1,4-benzoxazin-4-yl)-4-oxo-2-butenoate | 0.5 g | CC1(OC2=C(N(C1)C(C=CC(=O)OCC)=O)C=C(C=C2)[N+](=O)[O-])C | C16H18N2O6
reactant | methylamine | 0.116 g | CN | CH5N
solvent | methylene chloride | 3 ml | C(Cl)Cl | CH2Cl2
solvent | methanol | CO | CH4O
product | ethyl 4-(3,4-dihydro-2,2-dimethyl-6-nitro-2H-1,4-benzoxazin-4-yl)-3-methylamino-4-oxobutanoate | 0.2 g | CC1(OC2=C(N(C1)C(C(CC(=O)OCC)NC)=O)C=C(C=C2)[N+](=O)[O-])C | C17H23N3O6
